US09359359B2
To a solution of 3-methoxybenzamide (1.5 g, 9.9 mmol) in toluene (15 mL) was added 1-chloropropan-2-one (1.37 g, 14.9 mmol), and the mixture was stirred at reflux for 16 h. The mixture was cooled and concentrated to give crude product, which was purified via silica gel chromatography eluted with ethyl acetate/petroleum ether (1:5) to give 2-(3-methoxyphenyl)-4-methyloxazole (1.21 g, 64.6% yield) as yellow syrup. LCMS MH+ 190.

reactant | 3-methoxybenzamide | 9.9 mmol, 1.5 g | COC=1C=C(C(=O)N)C=CC1 | C8H9NO2
reactant | 1-chloropropan-2-one | 14.9 mmol, 1.37 g | ClCC(C)=O | C3H5ClO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-methoxyphenyl)-4-methyloxazole | 1.21 g, 64.6% yield | COC=1C=C(C=CC1)C=1OC=C(N1)C | C11H11NO2
